US04028344
A. 1-t-Butylazo-1-chlorocyclohexane
To a stirred solution of 252 grams (1.5 moles) of cyclohexanone t-butylhydrazone and 160 grams (1.5 moles) of triethylamine in 1200 ml pentane in a 3 liter 4 neck flask equipped with a mechanical stirrer, thermometer and gas inlet tube, was added 107 grams (1.5 moles) of chlorine gas, holding the temperature at -10° to 0° C. After the chlorine addition was complete, the reaction mixture was stirred an additional 15 minutes and the insoluble triethylamine hydrochloride filtered off. The filter cake was washed with an additional 300 ml pentane and the filtrate stripped of pentane under reduced pressure. The yield of 1-t-butylazo-1-chlorocyclohexane was 266 grams (87.5% crude yield).

reactant | cyclohexanone t-butylhydrazone | 1.5 moles, 252 grams | C(C)(C)(C)NN=C1CCCCC1 | C10H20N2
reactant | triethylamine | 1.5 moles, 160 grams | C(C)N(CC)CC | C6H15N
reactant | chlorine | 1.5 moles, 107 grams | ClCl | Cl2
solvent | pentane | 1200 ml | CCCCC | C5H12
product | 1-t-Butylazo-1-chlorocyclohexane | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
